US07772271B2
To a solution of 1-ethyl-2-(4-hydroxyphenyl)-6-methoxy-1H-indole-3-carbonitrile (58 mg, 0.2 mmol) in 4 mL of Et3N and CH2Cl2 (1/1) is added p-nitrophenyl chloroformate (100 mg, 0.5 mmol) at room temperature. After the mixture is stirred for about 1 h, N-isopropylmethylamine (0.062 mL, 0.6 mmol) is added. The mixture is stirred for 3 h and then water and ethyl acetate are added to the reaction mixture. The organic layer is separated, washed with aqueous HCl (1N) and brine, dried over anhydrous Na2SO4, and filtered and concentrated. The crude solid is purified by preparative HPLC to afford 70% of isopropyl-methyl-carbamic acid 4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl ester.

reactant | 1-ethyl-2-(4-hydroxyphenyl)-6-methoxy-1H-indole-3-carbonitrile | 0.2 mmol, 58 mg | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C1=CC=C(C=C1)O | C18H16N2O2
reactant | p-nitrophenyl chloroformate | 0.5 mmol, 100 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | N-isopropylmethylamine | 0.6 mmol, 0.062 mL | C(C)(C)NC | C4H11N
reactant | water | O | H2O
solvent | Et3N | 4 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | isopropyl-methyl-carbamic acid 4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl ester | 70% | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C1=CC=C(C=C1)OC(N(C)C(C)C)=O | C23H25N3O3
